US04426382
4-Amino-2-(4-cyclohexylideneacetyl-1-piperazinyl)-6,7-dimethoxyquinazoline hydrochloride hydrate (Compound No. 31 hydrochloride hydrate)
To 20 ml of tetrahydrofuran were added 1.16 g of 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline and 1.5 g of triethylamine, after which the mixture was stirred for 30 minutes. To this mixture was then added 0.63 g of cyclohexylideneacetyl chloride, after which the mixture was stirred at room temperature for 8 hours. The reaction mixture was then concentrated by evaporation under reduced pressure and the residue was extracted with chloroform. After washing the extract with water, the solvent was distilled off and the residue was dissolved in ethanol. A 10% w/w solution of hydrogen chloride in ethanol was then added to this solution and the crystals thereby produced were collected by filtration, giving 1.05 g of the desired Compound No. 31 hydrochloride hydrate in the form of colourless powdery crystals melting at 210°-212° C. (with decomposition).

reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | 1.16 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
reactant | cyclohexylideneacetyl chloride | 0.63 g | C1(CCCCC1)=CC(=O)Cl | C8H11ClO
solvent | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
product | 4-Amino-2-(4-cyclohexylideneacetyl-1-piperazinyl)-6,7-dimethoxyquinazoline hydrochloride hydrate | 1.05 g | O.Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(C=C1CCCCC1)=O | InChI=1S/C22H29N5O3.ClH.H2O/c1-29-18-13-16-17(14-19(18)30-2)24-22(25-21(16)23)27-10-8-26(9-11-27)20(28)12-15-6-4-3-5-7-15;;/h12-14H,3-11H2,1-2H3,(H2,23,24,25);1H;1H2
